US05545750
(2S,3S,4S,5S)-2,5-Di-(N-((t-butyloxy)carbonyl)amino)-3,4-dihydroxy-1,6-diphenylhexane
A solution of 15 mg (0.05 mmol) of (2S,3S,4S,5S)-2,5-diamino-3,4-dihydroxy-1,6-diphenylhexane in 0.5 ml of dichloromethane was treated with 24 mg (0.11 mmol) of di-t-butyldicarbonate and stirred at ambient temperature. After 16 h, the solution was concentrated in vacuo, and the residue was purified by silica gel chromatography using 30% ethyl acetate in hexane to provide 17 mg (68%) of the desired compound, m.p. 216°-218° C. 1H NMR δ1.40 (s, 18H), 2.97 (dd, J=14, 5 Hz, 2H), 3.20 (dd, J=14, 5 Hz, 2H), 3.22 (m, 2H), 4.03 (m, 2H), 4.35 (d, J=5 Hz, 2H), 4.41 (d, J=9 Hz, 2H), 7.2-7.3 (m, 10H). Mass spectrum: (M+H)+ =501.

reactant | (2S,3S,4S,5S)-2,5-diamino-3,4-dihydroxy-1,6-diphenylhexane | 0.05 mmol, 15 mg | N[C@@H](CC1=CC=CC=C1)[C@@H]([C@H]([C@H](CC1=CC=CC=C1)N)O)O | C18H24N2O2
reactant | di-t-butyldicarbonate | 0.11 mmol, 24 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
product | (2S,3S,4S,5S)-2,5-Di-(N-((t-butyloxy)carbonyl)amino)-3,4-dihydroxy-1,6-diphenylhexane | 17 mg, 68% | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)[C@@H]([C@H]([C@H](CC1=CC=CC=C1)NC(=O)OC(C)(C)C)O)O | C28H40N2O6
